Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fall
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: ___ with HTN, alzheimers s/p unwitnessed fall at home 
today. Patient denies preceding symptoms such as chest pain, 
palpitations, light headedness, headache, shortness of breath, 
weakness. Daughter found him awake on floor shortly after. Take 
to OSH by ambulance where CT head concern for ___ ventricl IVH 
and transferred to ___ for NS eval. Denies fever, chills, 
urinary symptoms, N/V/D. Good Po intake. No change in meds 
recently. History difficult to elicit given alzheimer's.  
 
In the ED, initial vitals were 99 78 198/84 16 98% RA. Labs 
unremarkable. NS consulted, CT reviewed, no evidence of IVH. 
Admitted to medicine for further evaluation.  
On the floor, patient comfortable in bed without complaint. Son, 
___, at bedside.  
 
ROS: Denies fever, chills, night sweats, headache, vision 
changes, rhinorrhea, congestion, sore throat, cough, shortness 
of breath, chest pain, abdominal pain, nausea, vomiting, 
diarrhea, constipation, BRBPR, melena, hematochezia, dysuria, 
hematuria.  

 
Past Medical History:
Hypertension  
Hyperlipidemia  
Glaucoma  
Alzheimers  

 
Social History:
___
Family History:
not pertinant
 
Physical Exam:
ADMISSION EXAM:
VS: 97.5 149/72 63 18 97%RA  
GENERAL: elderly male, NAD.  
HEENT: left eye with opacification of lens, right pupil 
reactive. MMM, EOMI. no nystagmus.  
NECK: JVP not elevated, no LAD.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTAB, no wheeze or rhonchi  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: no edema, warm. peripheral pulses 2+ in bilateral 
upper and lower extremities.  
SKIN: + various echymosis on extremities. otherwise, no rash.  
NEURO: Awake, A&Ox2, CNs II-XII grossly intact (except left 
eye), muscle strength ___ throughout in bilateral upper and 
lower extremities, sensation grossly intact throughout.  

DISCHARGE EXAM:
VS: 97.5 149/72 63 18 97%RA  
GENERAL: elderly male, NAD.  
HEENT: left eye with opacification of lens, right pupil 
reactive. MMM, EOMI. no nystagmus.  
NECK: JVP not elevated, no LAD.  
HEART: RRR, no MRG, nl S1-S2.  
LUNGS: CTAB, no wheeze or rhonchi  
ABDOMEN: Soft/NT/ND, no masses or HSM, no rebound/guarding.  
EXTREMITIES: no edema, warm. peripheral pulses 2+ in bilateral 
upper and lower extremities.  
SKIN: + various echymosis on extremities. otherwise, no rash.  
NEURO: Awake, A&Ox2, CNs II-XII grossly intact (except left 
eye), muscle strength ___ throughout in bilateral upper and 
lower extremities, sensation grossly intact throughout.  

 
Pertinent Results:
ADMISSION LABS:
___ 08:20PM BLOOD WBC-8.5 RBC-4.74 Hgb-13.8* Hct-43.0 
MCV-91 MCH-29.2 MCHC-32.1 RDW-13.4 Plt ___
___ 08:20PM BLOOD Glucose-100 UreaN-20 Creat-0.9 Na-140 
K-4.2 Cl-103 HCO3-28 AnGap-13
___ 08:20PM BLOOD cTropnT-<0.01
___ 08:20PM BLOOD ___ PTT-28.9 ___

XR T-SPINE:
There is a flowing anterior osteophyte seen along the anterior 
margin of the mid-to-lower thoracic spine suggesting a mild form 
of skeletal hyperostosis including formation of more discrete 
osteophytes along the anterior and right lateral margins of the 
spine along lower levels. The vertebral body heights and disc 
spaces appear preserved. There is no evidence for fracture, 
dislocation or bone destruction. A fine reticular abnormality 
involving the lungs is discussed in a separate chest radiograph 
report of the same day.  
IMPRESSION: Skeletal hyperostosis and mild degenerative change, 
but no 
evidence for fracture or dislocation. 

CXR:  The heart is normal in size. The mediastinal and hilar 
contours appear within normal limits. There is no pleural 
effusion or pneumothorax.  Moderate generalized irregular 
reticular pattern of opacification is noted in each lung, 
although without focal discrete opacity. 
IMPRESSION: Widespread fine reticular abnormality. This 
appearance may 
reflect chronic interstitial lung disease. In the appropriate 
clinical 
setting, vascular congestion superimposed on a background of 
abnormal lung architecture could also be considered as the 
etiology, although it may be entirely chronic. Comparison with 
prior films, if available, is recommended as well as pertinent 
historical information.
.
L.shoulder xray:
FINDINGS: No previous images. No evidence of acute fracture, 
dislocation or 
significant degenerative change. There is a relatively high 
position of the 
humeral head with respect to the glenoid fossa, though no 
radiographic 
measurements for impingement 
 

 
Brief Hospital Course:
___ with alzheimers admitted s/p fall.  

# Fall - clearly mechanical by daughter's history, though 
repidity of falls is concerning seems to be a combination of 
poor vision and lack of insight due to dementia.  Patient 
appears to have a significant amount of family and social 
supports with a longterm plan in place, but difficult to 
implement due to fincial consideration.  Patient complained of 
left arm and mid back pain but xrays were negative for acute 
processes.  Patient's pain well controlled on standing tylenol.  
Though transfered for ___ ventricular bleed our radiologists and 
neurosurgeons did not believe there to be hemorrhage and no 
surgical interventions were performed or recommended.  
Physical therapy  initially felt patient would benefit from 
inpatient admission to rehab. However, upon reevaluation, pt was 
deemed to be safe for discharge with home ___. family elected for 
home discharge with increased home services while patient 
awaited longterm placement at inpatient alzhiemers unit a the 
___
.
# Hypertension - stable, continued lisinopril  

# HLD - stable, continued statin  

# Alzheimers - stable, continued on home meds

# Glaucoma- stable, continued home meds

TRANSITIONAL ISSUES:  
-patient is a DNR/DNI
-patient is being evaluated for inpatient alzhiemers unit at 
___  

 
Medications on Admission:
3. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO DAILY (Daily).  
8. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
10. dorzolamide 2 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
11. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
12. scopolamine HBr 0.25 % Drops Sig: One (1) Drop Ophthalmic 
Q8H (every 8 hours) as needed for pain.  
13. galantamine 4 mg Tablet Sig: Two (2) Tablet PO daily ().  
14. memantine 10 mg Tablet Sig: One (1) Tablet PO daily ().
 
Discharge Medications:
1. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. senna 8.6 mg Tablet Sig: One (1) Tablet PO HS (at bedtime).  
3. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
6. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
7. calcium carbonate 200 mg calcium (500 mg) Tablet, Chewable 
Sig: One (1) Tablet, Chewable PO DAILY (Daily).  
8. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
9. brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
10. dorzolamide 2 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
11. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
12. scopolamine HBr 0.25 % Drops Sig: One (1) Drop Ophthalmic 
Q8H (every 8 hours) as needed for pain.  
13. galantamine 4 mg Tablet Sig: Two (2) Tablet PO daily ().  
14. memantine 10 mg Tablet Sig: One (1) Tablet PO daily ().  
15. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO TID (3 
times a day).  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___ Diagnosis:
PRIMARY:
-mechanical fall

SECONDARY:
-alzheimer's dementia
-hypertension
-hyperlipidemia
-gluacoma
-left eye blind
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you while you were at ___.  
You were admitted for evaluation after falling at home.  There 
was initially concern from the other hospital about bleeding in 
your brain.  You were transfered and our radiologists and 
neurosurgeons felt that fortunately there was actually no 
bleeding.  You had Xrays of your arm and back taken as you were 
complaining of pain in these areas and fortunately there were no 
fractures.  You were also seen by our physical therapists who 
felt you would benefit from additional rehab and you were 
transfered for further care.

The following changes were made to your medications:
-start tylenol as needed for pain
-continue all of your home medications as usual
 
Followup Instructions:
___